US04613208
A mixture of 1.3 g of crude 2-chloro-4-nitro-4-(4-hydroxyphenyl)azobenzene, 20 ml of ethanol, 0.658 g of 1-bromoheptane, 0.528 g of potassium carbonate and a spatula tip of sodium iodide was boiled at reflux while stirring for 22 hours. The brown suspension was subsequently concentrated in vacuo and the residue was chromatographed on silica gel with toluene/hexane as the eluent. Recrystallization from methylene chloride/hexane, yielded 0.863 g of 2-chloro-4-nitro-4'-(4-heptyloxyphenyl)-azobenzene as orange crystals; m.p. (C-N) 83.1°-83.7° C., cl.p. (N-I) 179.4°-179.8° C.; E300 =11580, E406 =25910.

reactant | 2-chloro-4-nitro-4-(4-hydroxyphenyl)azobenzene | 1.3 g | ClC1=C(C=CC(C1)(C1=CC=C(C=C1)O)[N+](=O)[O-])N=NC1=CC=CC=C1 | C18H14ClN3O3
reactant | 1-bromoheptane | 0.658 g | BrCCCCCCC | C7H15Br
reactant | potassium carbonate | 0.528 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-chloro-4-nitro-4'-(4-heptyloxyphenyl)-azobenzene | 0.863 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N=NC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC | C25H26ClN3O3
